US06559173B1
3-{[5-(4-Methoxy-benzyl)-1H-pyrazol-3-ylamino]-methylene}-1,3-dihydro-indol-2-one
The named compound is prepared by substituting 5-(4-methoxy-benzyl)-1H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.041 gms.) is reacted with 0.078 gms. of 5-(4-methoxy-benzyl)-1H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (1.0 mL).

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.041 gms | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-(4-methoxy-benzyl)-1H-pyrazol-3-ylamine | COC1=CC=C(CC2=CC(=NN2)N)C=C1 | C11H13N3O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 3-{[5-(4-Methoxy-benzyl)-1H-pyrazol-3-ylamino]-methylene}-1,3-dihydro-indol-2-one | COC1=CC=C(CC2=CC(=NN2)NC=C2C(NC3=CC=CC=C23)=O)C=C1 | C20H18N4O2
